US06894200B2
Synthesis of 6-bromo-1,2-difluoronaphthalene
Zinc (2.439 g, 36.6 mmol) was added to a stirred mixture of 5.01 g (17.8 mmol) of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, 11 ml of THF, and 22 ml of NH4OH that was cooled in an ice bath. The mixture was allowed to warm slowly to room temperature. After 4½ hours reaction time, the zinc was removed by filtration. The phases were separated, and the aqueous layer was extracted three times with hexanes. The combined organic phase was washed twice with brine and dried over MgSO4. The MgSO4 was filtered off, and the solvent removed under vacuum. Crude 6-bromo-1,2-difluoronaphthalene (4 g) containing 15% impurities (estimated) remained. The estimated yield of the crude 6-bromo-1,2-difluoronaphthalene was 91%. Brown needles (2.0 g, 8.3 mmol, 46% yield) were recovered after recrystallization from hexanes.

reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 17.8 mmol, 5.01 g | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
reactant | NH4OH | 22 ml | [NH4+].[OH-]
catalyst | Zinc | 36.6 mmol, 2.439 g | [Zn] | Zn
solvent | THF | 11 ml | C1CCOC1 | C4H8O
product | 6-bromo-1,2-difluoronaphthalene | 8.3 mmol, 2.0 g, 46% yield | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
